US07560546B2
Step A: Ethyl 5-bromo-4-nitro-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate
Ethyl 5-bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate (56 mg, 0.13 mmol, 1.0 equiv) was dissolved in 3 mL of sulfuric acid and cooled to 0° C. A 1 mL aqueous solution of nitric acid (10 mg, 0.15 mmol, 1.15 equiv) was added dropwise and the reaction was stirred for 10 minutes at 0° C., after which an additional 1 mL aqueous solution of nitric acid (5 mg, 0.06 mmol, 0.5 equiv) was added dropwise. After stirring for 30 minutes, the reaction mixture was partitioned between ethyl acetate and water, which was extracted three times with ethyl acetate. The combined organic layers were dried (Na2SO4), filtered, and concentrated in vacuo. Purification by flash chromatography on silica gel (0 to 15% ethyl acetate/dichloromethane) provided the titled compound. Proton NMR for the product was consistent with the titled compound ESI+MS: 462.0 [M+H]+.

reactant | Ethyl 5-bromo-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | 0.13 mmol, 56 mg, 1.0 equiv | BrC=1C=C2C(=C(NC2=CC1)C(=O)OCC)S(=O)(=O)N1CCOCC1 | C15H17BrN2O5S
reactant | nitric acid | 0.15 mmol, 10 mg, 1.15 equiv | [N+](=O)(O)[O-] | HNO3
reactant | nitric acid | 0.06 mmol, 5 mg, 0.5 equiv | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
product | Ethyl 5-bromo-4-nitro-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxylate | BrC=1C(=C2C(=C(NC2=CC1)C(=O)OCC)S(=O)(=O)N1CCOCC1)[N+](=O)[O-] | C15H16BrN3O7S
